US07432284B2
A solution of 8a-butyl-6-hydroxy-8,8a-dihydrocyclopenta[a]inden-2(1H)-one (300 mg, 1.2 mmol) in anhydrous DMF (3 mL) was placed under a N2 atmosphere and stirred at room temperature while N,N-diisopropylethylamine (0.63=L, 3.6 mmol) and chloromethyl methyl ether (0.183 mL, 2.4 mmol) were added successively. After stirring at room temperature overnight, the mixture was diluted with EtOAc (100 mL) and washed with 1N HCl. The acid wash was back-extracted with EtOAc. The combined organics were washed with 5% NaHCO3, water and brine, dried over MgSO4, filtered, and concentrated under vacuum to a brown oil. The crude product was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4×7 cm) silica gel column, eluting with 5:1 hexane-EtOAc, to provide 8a-butyl-6-(methoxymethoxy)-8,8a-dihydrocyclopenta[a]inden-2(1H)-one as an oil.

reactant | 8a-butyl-6-hydroxy-8,8a-dihydrocyclopenta[a]inden-2(1H)-one | 1.2 mmol, 300 mg | C(CCC)C12C(C=3C=CC(=CC3C1)O)=CC(C2)=O | C16H18O2
reactant | N,N-diisopropylethylamine | 3.6 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 2.4 mmol, 0.183 mL | COCCl | C2H5ClO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 8a-butyl-6-(methoxymethoxy)-8,8a-dihydrocyclopenta[a]inden-2(1H)-one | C(CCC)C12C(C=3C=CC(=CC3C1)OCOC)=CC(C2)=O | C18H22O3
